US05066667
A mixture of 5.6 g of 1-(2,6-diisopropylphenyl)-4-isopropyl-5-oxo-2-tetrazoline and 5.1 g of 2,4-bis-(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (Lawesson's reagent) are heated at reflux for 24 hours in 60 ml of dry toluene. After evaporating off the solvent, the residue is purified by chromatography on 500 g of silica gel with hexane/ethyl acetate (19:1) as eluant. Crystallisation from hexane yields 4.2 g of 1-(2,6-diisopropylphenyl)-4-isopropyl-5-thioxo-2-tetrazoline in the form of colourless crystals, m.p. 109°-111° C.

reactant | 1-(2,6-diisopropylphenyl)-4-isopropyl-5-oxo-2-tetrazoline | 5.6 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1N=NN(C1=O)C(C)C | C16H24N4O
reactant | 2,4-bis-(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 5.1 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2,6-diisopropylphenyl)-4-isopropyl-5-thioxo-2-tetrazoline | 4.2 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1N=NN(C1=S)C(C)C | C16H24N4S
